US08629137B2
6-(3.6-dichloro-pyridazine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one
2.00 mL (27.4 mmol) thionyl chloride were added to 1.92 g (9.95 mmol) 3,6-dichloro-pyridazine-4-carboxylic acid in 10 mL 1,2-dichloroethane and the mixture was refluxed for 2 h. The reaction mixture was evaporated to dryness and coevaporated with 1,2-dichloroethane. Then 5.30 g (39.8 mmol) aluminium trichloride and 1.56 g (10.5 mmol) 4-methyl-3H-benzoxazol-2-one were added and the mixture was stirred for 1 h at 100° C. under a nitrogen atmosphere. Then it was stirred for a further 2 h at 120° C., 3 h at 130° C. and then cooled for 48 h at RT. The mixture was decomposed with ice water and extracted with DCM. The organic phases were combined, washed with water, dried on sodium sulphate, filtered and evaporated down i. vac. The residue was triturated with DIPE, suction filtered and dried.

reactant | thionyl chloride | 27.4 mmol, 2.00 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3,6-dichloro-pyridazine-4-carboxylic acid | 9.95 mmol, 1.92 g | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | aluminium trichloride | 39.8 mmol, 5.30 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 4-methyl-3H-benzoxazol-2-one | 10.5 mmol, 1.56 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 6-(3.6-dichloro-pyridazine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | ClC=1N=NC(=CC1C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C13H7Cl2N3O3
